US09334279B2
To a round-bottom flask equipped with a stir bar and placed under N2 atmosphere was added THF (50 mL), then trimethyl(trifluoromethyl)silane (1.03 mL, 6.99 mmol). The solution was cooled to 0° C. and to the solution was added dihydro-2H-pyran-3(4H)-one (500 mg, 4.99 mmol). The solution was stirred for 5 minutes at 0° C. and then was allowed to warm to room temperature with stirring for 30 minutes. The solution was cooled to 0° C. and to the solution was added aq 1M HCl (50 mL). The mixture was stirred at room temperature overnight. The mixture was diluted with water and EtOAc and was transferred to a separatory funnel. The organic phase was isolated; washed with brine; dried over MgSO4, filtered; then concentrated in vacuo to afford 3-(trifluoromethyl)tetrahydro-2H-pyran-3-ol as a colorless oil (0.40 g, 47%). 1H-NMR (400 MHz, CDCl3) δ 4.01-3.93 (m, 1H), 3.82 (dd, J=11.8, 2.5 Hz, 1H), 3.60 (d, J=12.0 Hz, 1H), 3.41 (td, J=11.8, 2.5 Hz, 1H), 2.10-2.08 (m, 2H), 1.97-1.90 (m, 1H), 1.82 (dd, J=12.9, 4.4 Hz, 1H), 1.65-1.55 (m, 1H).

reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | trimethyl(trifluoromethyl)silane | 6.99 mmol, 1.03 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | dihydro-2H-pyran-3(4H)-one | 4.99 mmol, 500 mg | O1CC(CCC1)=O | C5H8O2
reactant | HCl | 1M, 50 mL | Cl | ClH
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(trifluoromethyl)tetrahydro-2H-pyran-3-ol | 0.40 g, 47% | FC(C1(COCCC1)O)(F)F | C6H9F3O2
